US05910498
Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate
Ethyl 6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)quinoline-3-carboxylate (280 mg) was dissolved in 10 ml of ethanol, 5 ml of acetic acid, and 5 ml of dichloroethane, to which was added 30 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred overnight at room temperature. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 200 mg of the title compound.

reactant | Ethyl 6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)quinoline-3-carboxylate | 280 mg | FC=1C=C2C(C(=CN(C2=CC1F)C1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)F)C(=O)OCC)=O | C18H9F5N2O5
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 200 mg | NC=1C=C(C(=C(C1F)F)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H11F5N2O3
